US04929613
2-[3-(4-Bromo-2,5-difluorophenyl)cyclopentyl]-1H-isoindole-1,3(2H)-dione.
A solution of 29.6 g (0.1 mol) of 1-bromo-4-(3-chlorocyclopentyl)-2,5-difluorobenzene in 150 ml of dry dimethylformamide was treated with 19.4 g (0.105 mol) of potassium phthalimide and the resulting suspension stirred at 100° for 8 hours and room temperature overnight. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and water. The aqueous layer was reextracted with methylene chloride and the combined organic layers were washed with water, dried (MgSO4), filtered, and evaporated in vacuo to give 36.8 g of the title compound as a viscous oil which crystallized on standing and had mp 44°-47°.

reactant | 1-bromo-4-(3-chlorocyclopentyl)-2,5-difluorobenzene | 0.1 mol, 29.6 g | BrC1=C(C=C(C(=C1)F)C1CC(CC1)Cl)F | C11H10BrClF2
reactant | potassium phthalimide | 0.105 mol, 19.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-[3-(4-Bromo-2,5-difluorophenyl)cyclopentyl]-1H-isoindole-1,3(2H)-dione | 36.8 g | BrC1=CC(=C(C=C1F)C1CC(CC1)N1C(C2=CC=CC=C2C1=O)=O)F | C19H14BrF2NO2
